US08440660B2
5-(5-Fluoro-2-methylphenoxymethyl)-6-(2-methoxy-4-methoxymethoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 2-1)
5-Hydroxymethyl-6-(2-methoxy-4-methoxymethoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 1-1, 511.7 mg, 1.39 mmol), 5-fluoro-2-methylphenol (182 μL, 1.67 mmol), tri-n-butylphosphine (521 μL, 2.09 mmol), and 1,1′-(azodicarbonyl)dipiperidine (526 mg, 2.08 mmol) were dissolved in anhydrous benzene (8 mL), and then the mixture was stirred under argon atmosphere at room temperature for 1 hour. Hexane (15 mL) was added to the reaction mixture, and the unsoluble materials were filtered out. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (411.4 mg) as a colorless amorphous product. (Yield 62%)

reactant | 5-Hydroxymethyl-6-(2-methoxy-4-methoxymethoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | OCC1=C2C(=CC(NC2=CC=C1C1=C(C=C(C=C1)OCOC)OC)(C)C)C | C22H27NO4
reactant | 5-fluoro-2-methylphenol | 1.67 mmol, 182 μL | FC=1C=CC(=C(C1)O)C | C7H7FO
reactant | tri-n-butylphosphine | 2.09 mmol, 521 μL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.08 mmol, 526 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 8 mL | C1=CC=CC=C1 | C6H6
solvent | Hexane | 15 mL | CCCCCC | C6H14
product | 5-(5-Fluoro-2-methylphenoxymethyl)-6-(2-methoxy-4-methoxymethoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 411.4 mg, Yield 62% | FC=1C=CC(=C(OCC2=C3C(=CC(NC3=CC=C2C2=C(C=C(C=C2)OCOC)OC)(C)C)C)C1)C | C29H32FNO4
